US07858710B2
A solution of 2-(4-pentenyl)-6-hepteneoic acid (1 eq.) in diethyl ether (20 mL) was slowly added via a Pasteur pipette to a precooled (0° C.) solution of ethyl vinyl ether (excess, usually >4 eq.) and phosphoric acid (cat., 1 drop from capillary pipette) in diethyl ether (10 mL). The solution was stirred cold for 30 minutes under argon, and then warmed to room temperature for 3 days. Basic alumina (˜1 g) was added to the reaction mixture and stirred for five minutes. After filtration and solvent removal, 1-ethoxyethyl-2-(pent-4-enyl)hept-6-enoate was isolated as 7.3 g (99.0% yield) of colorless oil with no further purification required. 1H NMR (CDCl3): δ (ppm) 1.22 (t, 3H) 1.30-1.55 (br, 9H), 1.62 (m, 2H), 2.05 (q, 4H), 2.36 (m, 1H), 3.53 (d, 1H), 3.71 (m, 1H), 4.97 (m, 4H), 5.82 (m, 2H), 5.94 (q, 1H); 13C NMR (CDCl3): δ (ppm) 15.24, 21.14, 26.86, 26.89, 31.91, 32.10, 33.76, 45.98, 64.77, 96.33, 114.92, 138.56, 176.17. In like manner 1,2-(7-octenyl)-9-deceneoic acid was converted into 1-ethoxyethyl-2-(oct-7-enyl)dec-9-enoate (99.1% yield). 1H NMR (CDCl3): δ (ppm) 1.16-1.53 (br, 24H), 1.61 (m, 2H), 2.04 (q, 4H), 2.34 (m, 1H), 3.53 (m, 1H), 3.71 (m, 1H), 4.97 (m, 4H), 5.81 (m, 2H), 5.95 (q, 1H); 13C NMR (CDCl3): δ (ppm) 15.24, 21.13, 27.59, 27.65, 29.03, 29.15, 29.58, 32.52, 32.71, 33.94, 46.30, 64.72, 96.22, 114.41, 139.27, 176.42. In like manner to Example 1, 2-(10-undecenyl)-12-trideceneoic acid was converted into 1-ethoxyethyl-2-(undec-10-enyl)tridec-12-enoate (98.4% yield). 1H NMR (CDCl3): δ (ppm) 1.16-1.53 (br, 36H), 1.60 (m, 2H), 2.04 (q, 4H), 2.33 (m, 1H), 3.54 (m, 1H), 3.71 (m, 1H), 4.97 (m, 4H), 5.81 (m, 2H), 5.95 (q, 1H); 13C NMR (CDCl3): δ (ppm) 15.24, 21.13, 27.59, 27.65, 29.03, 29.15, 29.58, 32.52, 32.71, 33.94, 46.30, 64.72, 96.22, 114.41, 139.27, 176.42.

reactant | 2-(4-pentenyl)-6-hepteneoic acid | 1 eq. | C(CCC=C)C(C(=O)O)CCCC=C | C12H20O2
reactant | ethyl vinyl ether | C(=C)OCC | C4H8O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
catalyst | phosphoric acid | 1 drop | P(O)(O)(O)=O | H3O4P
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 1-ethoxyethyl-2-(pent-4-enyl)hept-6-enoate | C(C)OC(C)OC(C(CCCC=C)CCCC=C)=O | C16H28O3
